US04772727
100 ml liquid ammonia and a catalytic amount of ferric nitrate (5 mg) are put into a 250 ml three-neck flask which is provided with an agitator, dry-ice condenser, dropping funnel with pressure compensation and with argon/ammonia flushing. 1.88 g (0.268M) lithium is added in portions to this mixture in such a manner that the blue color disappears between the additions. 7.21 g (7.49 ml, 0.129M) propargyl alcohol is added to the reaction mixture in 20 ml dry tetrahydrofuran during 25 minutes and the mixture is allowed to react for 1.5 hours during reflux after the addition. Subsequently, 14.0 g (10.86 ml, 85.8 mM) 1-bromo-5-hexene in 30 ml dry tetrahydrofuran is added over 30 minutes and the mixture is again allowed to react under reflux for 2.5 hours. Then, 2.05 g (0.298M) lithium is added in portions to the reaction mixture and the mixture is allowed to react one more hour. Subsequently, ammonium chloride is added in such an amount that the blue color of the reaction solution disappears and the main amount of the ammonia can evaporate. The reaction mixture is subsequently put in 20 g of ice and the mixture is allowed to warm up overnight to 25° C. The reaction mixture is extracted with ether and dried over magnesium sulfate. After the solvent has been drawn off, 9.3 g (66.4 mM) E-nona-2,8-diene-1-ol is obtained by bulb tube distillation of the residue at 105° C./0.5 mm pressure. This corresponds to a yield of 78%.

reactant | argon ammonia | [Ar].N
reactant | lithium | 0.268M, 1.88 g | [Li] | Li
reactant | propargyl alcohol | 0.129M, 7.49 ml, 7.21 g | C(C#C)O | C3H4O
reactant | 1-bromo-5-hexene | 85.8 mM, 10.86 ml, 14.0 g | BrCCCCC=C | C6H11Br
reactant | lithium | 0.298M, 2.05 g | [Li] | Li
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | E-nona-2,8-diene-1-ol | 66.4 mM, 9.3 g, yield of 78% | C(\C=C\CCCCC=C)O | C9H16O
